US07597955B2
0.78 g (2.49 mmole) of 4-(2-phenylindole-1-yl)phenyl boronic acid and 0.80 g (2.48 mmole) of 9-(4-bromophenyl)carbazole were put in a 20 ml three-necked flask, and 2.5 ml of toluene, 1.5 ml of ethanol, and 2.5 ml of 2M-sodium carbonate solution were put therein, and 0.09 g (0.08 mmole) of tetrakis-(triphenylphosphine) palladium (0) was added under stirring at room temperature under nitrogen flow. Then, the mixture was refluxed with stirring for 5 hours under nitrogen flow. After the reaction was completed, the reaction mixture was cooled to room temperature and deposited crystal was separated by filtration. The crystal was washed with acetone and recrystallized with a mixed solvent of toluene/ethanol. The obtained crystal was refined by alumina column chromatography (eluent:toluene) and crystallize with methanol to give 0.49 g of a white crystal of 4-(2-phenylindole-1-yl)-4′-(carbazole-9-yl)biphenyl (Exemplary Compound No. 34)(yield: 38.6%).

reactant | 4-(2-phenylindole-1-yl)phenyl boronic acid | 2.49 mmole, 0.78 g | C1(=CC=CC=C1)C=1N(C2=CC=CC=C2C1)C1=CC=C(C=C1)B(O)O | C20H16BNO2
reactant | 9-(4-bromophenyl)carbazole | 2.48 mmole, 0.80 g | BrC1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C18H12BrN
reactant | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis-(triphenylphosphine) palladium (0) | 0.08 mmole, 0.09 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | 4-(2-phenylindole-1-yl)-4′-(carbazole-9-yl)biphenyl | yield: 38.6% | C1(=CC=CC=C1)C=1N(C2=CC=CC=C2C1)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C38H26N2
